* /Users/adensmore/Dropbox/School/Simulation/dc-conv-sim/bi-directional-conv-dchg.asc
V1 N003 0 12
L1 N002 N003 500µ Ipk=6.3 Rser=141.9m Rpar=61.23K Cpar=0 mfg=" ---" pn=" ---"
D1 N002 N001 RFN60TS6D
R1 N001 0 20
C1 N001 0 490µ Rser=60m Lser=0 mfg=" ---" pn=" ---" type=" ---"
M2 N002 N004 0 0 IPB016N06L3
D2 0 N002 RFN60TS6D
V2 N004 0 PULSE(0 12 0 0 0 .000004 .00002)
C2 N003 0 490µ Rser=60m Lser=0 mfg=" ---" pn=" ---" type=" ---"
M1 N001 N002 N002 N002 IPB016N06L3
.model D D
.lib /Users/adensmore/Library/Application Support/LTspice/lib/cmp/standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/adensmore/Library/Application Support/LTspice/lib/cmp/standard.mos
.tran 0 .1 .09 .001
* Bi-direction DC/DC converter. Left side is Port 0, DC bus. \nRight side is Port 1, battery. In this model, the battery is discharging into the DC bus.
.backanno
.end
